US08058245B2
1-Deoxy-2,3,4,6-tetra-O-pivaloyl-1-(2,4-dimethoxyphenyl)-β-D-glucopyranose
To a solution of 1-deoxy-1-(2,4-dimethoxyphenyl)-β-D-glucopyranose (0.47 g) in pyridine (10 mL) was added pivaloyl chloride (1.1 g) at room temperature, and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the mixture was extracted with diethyl ether.

reactant | 1-deoxy-1-(2,4-dimethoxyphenyl)-β-D-glucopyranose | 0.47 g | COC1=C(C=CC(=C1)OC)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C14H20O7
reactant | pivaloyl chloride | 1.1 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | water | O | H2O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 1-Deoxy-2,3,4,6-tetra-O-pivaloyl-1-(2,4-dimethoxyphenyl)-β-D-glucopyranose | C(C(C)(C)C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)COC(C(C)(C)C)=O)C1=C(C=C(C=C1)OC)OC | C34H52O11
